US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-chloro-propyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
A solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(3-bromopropyl)pyrrolo[2,1-f][1,2,4]-triazin-4-ylamine (50 mg, 0.108 mmol), 3,3-difluoropyrrolidine hydrochloride (78 mg, 0.54 mmol, 5.0 eq), triethylamine (77 mg, 0.76 mmol, 7.0 eq), and sodium iodide (3.3 mg, 0.022 mmol, 0.2 eq) in anhydrous DMF (1.0 mL) was stirred at 50° C. for 6 h. The reaction mixture was partitioned between EtOAc and water, and the organic layer was washed with 50% aq. brine (3×), dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was dissolved in MeOH (3 mL) and purified using HPLC (RT=10.16 min) to give a colorless oil. Crystallization from DCM/hexane afforded 9.4 mg (20.8%) of the byproduct as a white solid. 1H-NMR (CD3OD) 8.35 (s, 1H), 7.82 (s, 1H), 7.81 (d, 1H), 7.64 (s, 1H), 7.36 to 7.30 (m, 5H), 7.23 (d, 1H), 6.62 (s, 1H), 5.66 (s, 2H), 3.64 (t, 2H), 3.14 (t, 2H), 226 to 2.22 (m, 2H); LC-MS [M+H]+=417/419, RT=2.91 min.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(3-bromopropyl)pyrrolo[2,1-f][1,2,4]-triazin-4-ylamine | 0.108 mmol, 50 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CCCBr | C23H21BrN6
reactant | 3,3-difluoropyrrolidine hydrochloride | 0.54 mmol, 78 mg, 5.0 eq | Cl.FC1(CNCC1)F
reactant | triethylamine | 0.76 mmol, 77 mg, 7.0 eq | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.022 mmol, 3.3 mg, 0.2 eq | [I-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-chloro-propyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 9.4 mg, 20.8% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CCCCl | C23H21ClN6
